US04451673
Bis-(Diphenylphosphinoethyl) Diphenyl Silane
About 2 moles of diphenyl phosphine were added sequentially to one mole of divinyl diphenyl silane to yield mostly the desired diadduct which crystallized on standing; recrystallization from heptane provided the pure product.

reactant | diphenyl phosphine | 2 moles | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | divinyl diphenyl silane | one mole | C(=C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C=C | C16H16Si
product | Bis-(Diphenylphosphinoethyl) Diphenyl Silane | C1(=CC=CC=C1)P(C1=CC=CC=C1)CC[Si](C1=CC=CC=C1)(C1=CC=CC=C1)CCP(C1=CC=CC=C1)C1=CC=CC=C1 | C40H38P2Si
